US06387911B1
2-(Ethylthio)benzyltrifluoroacetamide
To a solution of 2-(aminomethyl)-ethylthiobenzene hydrochloride (500 mg, 2.46 mmol) and pyridine (0.50 mL, 6.15 mmol) in dry CH2Cl2 (21 mL) at 0° C. under Ar was added rapidly dropwise trifluoroacetic anhydride (0.45 mL, 3.2 mmol). The mixture was allowed to warm to room temperature while stirring overnight. The solution was diluted with CH2Cl2 (50 mL) and washed with 10% aqueous citric acid (100 mL). The aqueous layer was extracted with an additional 50 mL CH2Cl2. The combined organic extracts were washed with aqueous saturated NaHCO3 (50 mL) and brine (50 mL). The organic layer was dried over MgSO4 and concentrated at reduced pressure. Silica gel chromatography (isocratic elution with 20%/o EtOAc/hexanes) afforded the title compound as a white solid:

reactant | 2-(aminomethyl)-ethylthiobenzene hydrochloride | 2.46 mmol, 500 mg | Cl.NCC1=C(C=CC=C1)SCC
reactant | pyridine | 6.15 mmol, 0.50 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 3.2 mmol, 0.45 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(Ethylthio)benzyltrifluoroacetamide | C(C)SC1=C(CNC(C(F)(F)F)=O)C=CC=C1 | C11H12F3NOS
